US08604029B2
p-Nitroaniline (0.51 g, 3.7 mmol) was added to a solution of 4,6-dimethyl-pyridine-2-carbaldehyde (0.5 g, 3.7 mmol) in tetrahydrofuran (20 mL) at 0° C., followed by sulfuric acid and water (1 mL:1 mL). After stirring at 0° C. for 30 min. sodium cyanoborohydride (0.47 g, 7.4 mmol) was added portionwise at 0° C. The mixture stirred at room temperature for 1 h then concentrated in vacuo, diluted with water and extracted with ethyl acetate. The organic phase was washed with sodium carbonate solution, dried over anhydrous sodium sulfate and concentrated to give a residue which was purified by column chromatography on silica gel (60-120 mesh) using 18% ethyl acetate/hexane as eluent to afford (4,6-dimethyl-pyridin-2-ylmethyl)-(4-nitro-phenyl)-amine (0.35 g, 37%).

reactant | p-Nitroaniline | 3.7 mmol, 0.51 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 4,6-dimethyl-pyridine-2-carbaldehyde | 3.7 mmol, 0.5 g | CC1=CC(=NC(=C1)C)C=O | C8H9NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium cyanoborohydride | 7.4 mmol, 0.47 g | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (4,6-dimethyl-pyridin-2-ylmethyl)-(4-nitro-phenyl)-amine | 0.35 g, 37% | CC1=CC(=NC(=C1)C)CNC1=CC=C(C=C1)[N+](=O)[O-] | C14H15N3O2
